US04801601
N-dihydroxypropyl-N',N"-diglycidyl urazole
5 g of triglycidyl urazole (0.019 mole) are stirred for 3 hours at 70° C. in 50 ml of water. The solution is concentrated in a rotary evaporator and dried in a high vacuum. The colourless, oily crude product (5.8 g) is purified by column chromatography.

reactant | triglycidyl urazole | 0.019 mole, 5 g | C(C1CO1)N1C(N(N(C1=O)CC1CO1)CC1CO1)=O | C11H15N3O5
reactant | water | 50 ml | O | H2O
product | N-dihydroxypropyl-N',N"-diglycidyl urazole | OC(CCN1N(C(=O)N(C1=O)CC1CO1)CC1CO1)O | C11H17N3O6
